US05587379
Under a nitrogen atmosphere, a stirred solution of 4.1 grams (0.014 mole) of 1-methylsulfonyloxy-5-(naphth-1-yl)pentane, and 4.2 grams (0.028 mole) of sodium iodide in 150 mL of acetone was heated at reflux for 2.5 hours. The reaction mixture was poured into 400 mL of water, and the mixture was extracted with two 100 mL portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 3.9 grams of 5-(naphth-1-yl)pentyl iodide. The NMR spectrum was consistent with the proposed structure.

reactant | 1-methylsulfonyloxy-5-(naphth-1-yl)pentane | 0.014 mole, 4.1 grams | CS(=O)(=O)OCCCCCC1=CC=CC2=CC=CC=C12 | C16H20O3S
reactant | sodium iodide | 0.028 mole, 4.2 grams | [I-].[Na+]
reactant | water | 400 mL | O | H2O
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 5-(naphth-1-yl)pentyl iodide | 3.9 grams | C1(=CC=CC2=CC=CC=C12)CCCCCI | C15H17I
